US05268391
Step 11(c): Preparation of 2-benzyl-3-tert.-butylthio-propionic acid
400 mg of 2-benzyl-3-tert.-butylthio-propionic acid ethyl ester was dissolved in 1.5 ml of methanol and then reacted with 5 ml of 2N potassium hydroxide solution. The mixture was stirred overnight at room temperature and concentrated by evaporation. The residue was diluted with water and washed with ether. The aqueous layer was acidified to pH 3 with 2N HCl, and then evaporated to give the title compound (280 mg, 78% yeild). 1H NMR: 300 MHz spectrum consistent with proposed structure.

reactant | 2-benzyl-3-tert.-butylthio-propionic acid ethyl ester | 400 mg | C(C)OC(C(CC(C)(C)C)CC1=CC=CC=C1)=S | C16H24OS
reactant | potassium hydroxide | 2N, 5 ml | [OH-].[K+]
solvent | methanol | 1.5 ml | CO | CH4O
product | 2-benzyl-3-tert.-butylthio-propionic acid | 280 mg, 78% | C(C1=CC=CC=C1)C(C(=S)O)CC(C)(C)C | C14H20OS
